US06683055B1
a) Methyl N-(4-tert-Butoxycarbonylbenzyl)-D-valine
Prepared by reaction of methyl D-valine hydrochloride and tert-butyl 4-bromomethylbenzoate analogously to Example 56, stage a. The compound was obtained in 74% yield after chromatographic purification, FAB-MS: 321 (M+).

reactant | methyl D-valine hydrochloride | Cl.CN[C@H](C(C)C)C(=O)O
reactant | tert-butyl 4-bromomethylbenzoate | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
product | Methyl N-(4-tert-Butoxycarbonylbenzyl)-D-valine | 74% yield | CN([C@H](C(C)C)C(=O)O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C18H27NO4
